US05705646
A. {2-[1-(2,6-Dichloro-4-trifluoromethylphenyl)-3,5-diethyl-1H-pyrazol-4-ylmethyl]-1,2,3,4-tetrahydroisoquinolin-3-yl}methanol
A solution of 368 mg (1.0 mmol) of [1-(2,6-dichloro-4-trifluoromethylphenyl)-3,5-diethyl-1H-pyrazol-4-yl]methanol in 10 mL of methylene chloride and 0.2 mL (2.5 mmol) of triethylamine was cooled to 0°-5° C. To this was added 0.92 mL (1.2 mmol) of methanesulfonyl chloride and the reaction mixture was stirred at 0°-5° C. for 15 minutes. Then 1 mL of acetonitrile and 1 mL of dimethylformamide was added and the reaction mixture was heated at reflux overnight. The cooled reaction mixture was taken up with water and with ethyl acetate and the organic extracts were dried and evaporated to an orange oil which was purified by flash chromatography to give the desired product in 45% yield. 1H-NMR (CDCl3) δ0.86 (3H, t, J=7), 1.21 (3H, t, J=7), 2.28 (2H, q, J=7), 2.60 (2H, q, J=7), 2.92-3.04 (1H, m), 3.20-3.32 (1H, m), 3.50-3.90 7H, m), 6.90-7.24 (4H, m), 7.68 (2H, s).

reactant | [1-(2,6-dichloro-4-trifluoromethylphenyl)-3,5-diethyl-1H-pyrazol-4-yl]methanol | 1.0 mmol, 368 mg | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1CC)CO)CC | C15H15Cl2F3N2O
reactant | triethylamine | 2.5 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.2 mmol, 0.92 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | acetonitrile | 1 mL | C(C)#N | C2H3N
reactant | water | O | H2O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | {2-[1-(2,6-Dichloro-4-trifluoromethylphenyl)-3,5-diethyl-1H-pyrazol-4-ylmethyl]-1,2,3,4-tetrahydroisoquinolin-3-yl}methanol | 45% yield | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1CC)CN1CC2=CC=CC=C2CC1CO)CC | C25H26Cl2F3N3O
